US04282220
(a) 1,3-Thiazol-4-yl-glyoxylic acid ethyl ester
Alternatively, the 1,3-thiazol-4-yl-glyoxyl ester is obtained by heating 17.1 g of 1,3-thiazol-4-yl-acetic acid ethyl ester in 50 ml of 1,2-dichloroethane together with 10.5 g of SeO2 with reflux on a water separator. When the separation of water is complete, the mixture is filtered with suction, the residue is washed with 1,2-dichloroethane, the combined dichloroethane phases are concentrated and the residue is distilled.

reactant | 1,3-thiazol-4-yl-acetic acid ethyl ester | 17.1 g | C(C)OC(CC=1N=CSC1)=O | C7H9NO2S
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 50 ml | ClCCCl | C2H4Cl2
product | 1,3-Thiazol-4-yl-glyoxylic acid ethyl ester | C(C)OC(C(=O)C=1N=CSC1)=O | C7H7NO3S
